US07307094B2
A mixture of 7-bromo-2-phenylbenzo[d]oxazole-4-carboxylic acid (200 mg, 0.62 mmol), (±)-3-aminoquinuclidine dihydrochloride (148 mg, 0.74 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (237 mg, 1.24 mmol) and 1-hydroxybenzotriazole (167 mg, 1.24 mmol) in DMF (2.5 mL) was stirred 5 min at room temperature, then triethylamine (0.34 mL, 2.48 mmol) was added. The resulting reaction mixture was stirred at room temperature for 12 h. The mixture was diluted with dichloromethane (20 mL), then washed with a saturated solution of sodium bicarbonate (10 mL). The aqueous layer was further extracted with dichloromethane (3×15 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 89:10:1 dichloromethane/methanol/concentrated ammonium hydroxide) followed by semi-preparative HPLC to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-7-bromo-2-phenylbenzoxazole-4-carboxamide (34 mg, 13%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.41 (d, J=7.0 Hz, 1H), 8.29-8.26 (m, 2H), 8.09 (d, J=8.5 Hz, 1H), 7.66-7.57 (m, 4H), 4.31-4.27 (m, 1H), 3.51 (ddd, J=11.5, 9.5, 2.0 Hz, 1H), 3.15-2.85 (m, 4H), 2.81 (dd, J=14.0, 4.0 Hz, 1H), 2.17-2.14 (m, 1H), 2.07-2.02 (m, 1H), 1.79-1.61 (m, 3H); MS (ESI+) m/z 426 (M+H); HPLC>99% (AUC), tR=13.09 min.

reactant | 7-bromo-2-phenylbenzo[d]oxazole-4-carboxylic acid | 0.62 mmol, 200 mg | BrC=1C=CC(=C2N=C(OC21)C2=CC=CC=C2)C(=O)O | C14H8BrNO3
reactant | (±)-3-aminoquinuclidine dihydrochloride | 0.74 mmol, 148 mg | Cl.Cl.NC1CN2CCC1CC2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.24 mmol, 237 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.24 mmol, 167 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.48 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-7-bromo-2-phenylbenzoxazole-4-carboxamide | 34 mg, 13% | N12CC(C(CC1)CC2)NC(=O)C=2C=CC(=C1C2N=C(O1)C1=CC=CC=C1)Br | C21H20BrN3O2
